US07713979B2
Using the procedure to synthesize Example 1 and using reagent 1-(cis-7-methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one (Preparation 45) (2.49 g, 10.4 mmol), LDA (1.5M, 8.3 mL, 12.5 mmol) and 1-(bromomethyl)-2,4-dichlorobenzene (4.07 g, 20.8 mmol) yields 2.34 g (56%) of 3-(2,4-dichloro-benzyl)-1-(cis-7-methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one as a white solid.

reactant | 1-(cis-7-methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one | 10.4 mmol, 2.49 g | C[C@@H]1CC2(OCCO2)CC[C@@H]1N1C(CCC1)=O | C13H21NO3
reactant | LDA | 12.5 mmol, 1.5M, 8.3 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-(bromomethyl)-2,4-dichlorobenzene | 20.8 mmol, 4.07 g | BrCC1=C(C=C(C=C1)Cl)Cl | C7H5BrCl2
product | 3-(2,4-dichloro-benzyl)-1-(cis-7-methyl-1,4-dioxa-spiro[4.5]dec-8-yl)-pyrrolidin-2-one | 2.34 g, 56% | ClC1=C(CC2C(N(CC2)[C@@H]2[C@@H](CC3(OCCO3)CC2)C)=O)C=CC(=C1)Cl | C20H25Cl2NO3
